US07078448B2
D-3 Product with Diallyl Phthalate
0.2 g of defoamer and 12 g of Fixapret COC were added to and mixed with a solution of 47 g of polyvinyl alcohol in 600 g of water. The mixture was heated to about 80° C. About 90% of a catalyst solution of 1.3 g of ammonium persulfate in 6 g of water were then added and the mixture was homogenized for about 5 minutes. A mixture of 460 g of vinyl acetate and 10 g of dibutyl phthalate was then added over a period of about 3.5 to 4 hours so that the temperature stayed between 82 and 88° C. After the monomer mixture had been added, the remaining catalyst solution was added and the reaction mixture was stirred for about 1 hour at a temperature of about 90° C. The solids content was then adjusted to about 55%. After the dispersion had cooled to a temperature of about 35 to about 40° C., 15 g of dibutyl phthalate were added. The product thus obtained had a pH of 4.2 and a viscosity (5/2120) of 44,000 cps.

reactant | ammonium persulfate | 1.3 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | vinyl acetate | 460 g | C(C)(=O)OC=C | C4H6O2
reactant | dibutyl phthalate | 10 g | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
reactant | dibutyl phthalate | 15 g | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
solvent | water | 600 g | O | H2O
solvent | water | 6 g | O | H2O
product | Diallyl Phthalate | C(C=1C(C(=O)OCC=C)=CC=CC1)(=O)OCC=C | C14H14O4
